US07202238B2
To a suspension of (3R,9aR)-2-[3,5-bis(trifluoromethyl)benzoyl]-3-(1H-indol-3-ylmethyl)-octahydro-2H-pyrido[1,2-a]pyrazin-7-one (5.6 g) in acetic acid (75 mL) was added sodium triacetoxyborohydride (6.78 g). The resulting mixture was stirred for one hour at room temperature then poured in water and basified with 2M sodium hydroxide (aq.). The formed precipitate was collected by filtration, washed with water, suspended in toluene and concentrated in vacuo to afford 3,5-bis(trifluoromethyl) phenyl-[(3R,7S,9aR)-7-hydroxy-3-(1H-indol-3-ylmethyl)-octahydropyrido[1,2-a]pyrazin-2-yl]-methanone (5.7 g). Rf 0.35 (CH2Cl2/MeOH 9:1) (compound 12).

reactant | (3R,9aR)-2-[3,5-bis(trifluoromethyl)benzoyl]-3-(1H-indol-3-ylmethyl)-octahydro-2H-pyrido[1,2-a]pyrazin-7-one | 5.6 g | FC(C=1C=C(C(=O)N2C[C@@H]3N(C[C@H]2CC2=CNC4=CC=CC=C24)CC(CC3)=O)C=C(C1)C(F)(F)F)(F)F | C26H23F6N3O2
reactant | sodium triacetoxyborohydride | 6.78 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 2M | [OH-].[Na+]
solvent | acetic acid | 75 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 3,5-bis(trifluoromethyl) phenyl-[(3R,7S,9aR)-7-hydroxy-3-(1H-indol-3-ylmethyl)-octahydropyrido[1,2-a]pyrazin-2-yl]-methanone | 5.7 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1C[C@@H]2N(C[C@H]1CC1=CNC3=CC=CC=C13)C[C@H](CC2)O)(F)F | C26H25F6N3O2
